US06121280
A mixture of 85 mg of 1-(2-Aza-bicyclo[2.2.1]hept-5-en-3-yl)-5-(3,4,5-trimethoxy-phenyl)-pentan-1-one and 50 mg of 10% Pd/C in 10 ml of ethyl acetate was hydrogenated at 50 psi for 6 hours. The reaction mixture was filtered and the solvent evaporated to yield 85 mg of 1-(2-Aza-bicyclo[2.2.1]hept-3-yl)-5-(3,4,5-trimethoxy-phenyl)-pentan-1-one as a mixture of exo and endo isomers. 1H NMR: (CDCl3) δ 6.40 (s, 2 H), 3.8 (s, 6 H), 3,75 (s, 3 H), 3.0-4.2 (m, 2 H), 2.5 (m, 5 H), 1.6 (m, 4 H), 1.4 (m, 1 H), 1.2 (m, 1 H). Mass spectrum m/e=348.2 (P+1).

reactant | 1-(2-Aza-bicyclo[2.2.1]hept-5-en-3-yl)-5-(3,4,5-trimethoxy-phenyl)-pentan-1-one | 85 mg | C12NC(C(C=C1)C2)C(CCCCC2=CC(=C(C(=C2)OC)OC)OC)=O | C20H27NO4
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 1-(2-Aza-bicyclo[2.2.1]hept-3-yl)-5-(3,4,5-trimethoxy-phenyl)-pentan-1-one | 85 mg | C12NC(C(CC1)C2)C(CCCCC2=CC(=C(C(=C2)OC)OC)OC)=O | C20H29NO4
